Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___ with drug eluting stent placement

 
History of Present Illness:
___ with history of HIV, CAD, HTN, Hyperlipidemia presenting 
with intermittent chest tightness since yesterday morning. PAin 
radiated to the left arm with some tingling. Did feel 
diaphoretic and felt burning. He reports that the pain from 
previous MI felt more tight. No f/c/ n/v. No SOB. No n/v/d. No 
cough, had cold 3w ago, no other recent infections. Received 
full aspirin and SLNGT via EMS ___ cp currently. He reports 
nitro helped. Reports ___ hr, this is ___ episode. 

CARDS CURBSIDE IN ER:
Typical CP, on and off since yesterday in patient with prior 
stents, not yet relieved with SL NTGx 2. ECG without significant 
change from baseline, enzymes pending. Would give add'l SL NTG, 
if this does not resolve CP, start nitro gtt. Also would start 
empiric heparin gtt. BP elevated, so would start outpt meds if 
persistent hypertension despite nitro. admit to ___ for ACS. 

In ED VS were 98.4 64 154/75 18 100% on RA
Labs were remarkable for Trop-T: <0.01, K 3.9, Creatinine 1.5 
(baseline 1.3), WBC 2.9 without left shift (down from baseline 
of ~5), H&H 11.4/37.5  (b/l mid to low ___ with MCV 102 (>100 
since ___, platelets 117 (baseline 100-150).
INR: 1.1. 
Imaging: CXR with no acute cardiopulm pathology.
EKG: NSR, NANI, poor R-wave progression, TW flattening in V1-2. 
Compared to prior on ___, TW changes are new
Interventions: pt received nitro and was started on heparin gtt

Vitals on transfer were 97.9 54 159/69 17 98% RA 
On arrival to the floor, vitals were 97.9 197/79 61 18 100% on 
RA and patient reported ___ chest pain with some tingling in 
his fingers and a slight headache. He was in no acute distress 
and reported these are symptoms he usually gets when his BP is 
high and goes away rapidly. His BP meds were given and he 
reported complete resolution of pain 15 minutes later.
 
Past Medical History:
# CAD s/p Promus DES to mid-LAD, D1 branch, and distal-RCA on
___
# HTN
# Mild AR
# CKD
# SIADH
# HIV, CD4 481 in ___
# HCV cirrhosis c/b portal HTN
# COPD
# GERD
# chronic diarrhea
# cervical stenosis s/p surgery
# colonic polyps
# anemia of chronic disease 
# G6PD deficiency,
# peripheral neuropathy
# ? pulmonary TB ___ - while working at ___, treated for 9 mos
# +RPR treated in the ___
# h/o prostatitis ___
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.9 197/79 61 18 100% on RA  
GENERAL: NAD, AxOx3. Elderly black man lying comfortably in bed
HEENT:  JVP 8cm, +HJR, Sclera anicteric. PERRL, EOMI. MMM 
CARDIAC: RRR, normal S1, S2. No m/r/g.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, obese, NT. No HSM or tenderness.  
EXTREMITIES: trace pretibial edema, 2+ DPs bilaterally

DISCHARGE PHYSICAL EXAM:
VS: 97.8 137/68 78 20 99% RA 64.4kg
GENERAL: NAD, AxOx3. Elderly black man lying comfortably in bed
HEENT:  JVP 8cm,  Sclera anicteric. PERRL, EOMI. 
CARDIAC: RRR, normal S1, S2. No m/r/g.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, obese, NT. No HSM or tenderness.  
EXTREMITIES: trace pretibial edema, 2+ DPs bilaterally

 
Pertinent Results:
ADMISSION LABS:
___ 06:20AM BLOOD WBC-2.9* RBC-3.69* Hgb-11.4* Hct-37.5* 
MCV-102* MCH-30.9 MCHC-30.4* RDW-12.5 Plt ___
___ 06:20AM BLOOD Neuts-38.8* Lymphs-46.5* Monos-8.5 
Eos-4.9* Baso-1.3
___ 06:55AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 06:20AM BLOOD ___ PTT-35.3 ___
___ 06:55AM BLOOD  WBC-3.7* Lymph-59* Abs ___ CD3%-70 
Abs CD3-1522 CD4%-25 Abs CD4-538 CD8%-44 Abs CD8-966* 
CD4/CD8-0.6*
___ 06:20AM BLOOD Glucose-141* UreaN-18 Creat-1.5* Na-138 
K-3.9 Cl-105 HCO3-25 AnGap-12
___ 06:20AM BLOOD ALT-60* AST-90* AlkPhos-68 TotBili-0.4
___ 03:26PM BLOOD CK(CPK)-189
___ 06:55AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.8

DISCHARGE LABS:
___ 06:42AM BLOOD WBC-3.3* RBC-3.12* Hgb-9.8* Hct-31.8* 
MCV-102* MCH-31.4 MCHC-30.8* RDW-13.0 Plt ___
___ 06:42AM BLOOD Glucose-121* UreaN-24* Creat-1.7* Na-141 
K-4.3 Cl-115* HCO3-19* AnGap-11
___ 06:42AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9

CARDIAC ENZYMES:
___ 06:20AM BLOOD cTropnT-<0.01
___ 03:26PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:30PM BLOOD cTropnT-<0.01
___ 05:55AM BLOOD CK-MB-4 cTropnT-<0.01
___ 03:20AM BLOOD cTropnT-0.03*
___ 09:23AM BLOOD CK-MB-4 cTropnT-0.04*
___ 03:41PM BLOOD CK-MB-3 cTropnT-0.04*

ECGStudy Date of ___  6:15:16 AM
Sinus rhythm. Non-specific septal and T wave flattening. 
Compared to the
previous tracing of ___ repolarization abnormalities are 
less prominent.
Atrial ectopy is no longer evident.
___
___

ECGStudy Date of ___  11:44:44 AM
Sinus bradycardia. Occasional atrial premature beats. Modest 
inferolateral
ST-T wave changes which are non-specific. Compared to the 
previous tracing
of ___ there is no significant diagnostic change.
___
___

CHEST (PA & LAT)Study Date of ___ 7:25 AM
FINDINGS:  The lungs are well expanded and clear.  
Cardiomediastinal and hilar
contours are unremarkable.  There is no pleural effusion or 
pneumothorax.  A
cervical spine fixation plate is seen in the frontal view 
without evidence of
hardware-related complication.
IMPRESSION:  Unremarkable chest radiographic examination.

ECGStudy Date of ___  2:39:38 AM
Sinus rhythm and increase in rate as compared with previous 
tracing of ___.
There is slight inferolateral ST segment depression as compared 
with previous
tracing of ___. Otherwise, no diagnostic interim change. 
Clinical
correlation is suggested. Atrial ectopy is absent.
___
___

FEMORAL VASCULAR US LEFTStudy Date of ___ 12:59 ___
FINDINGS: 
Transverse and sagittal images were obtained of the left groin.  
There is no
suspicious soft tissue mass and no focal fluid collection is 
identified.
Appropriate venous flow is seen in the left CFV.  Appropriate 
arterial
waveforms are seen in the left CFA.  Minimal superficial soft 
tissue edema is
identified in the left groin likely reflecting recent 
instrumentation.
IMPRESSION: 
No evidence of pseudoaneurysm, AV fistula, or focal fluid 
collection in the
left groin. Minimal edema evident.

UNILAT LOWER EXT VEINS LEFTStudy Date of ___ 12:59 ___
FINDINGS: 
There is normal compressibility, flow and augmentation of the 
left common
femoral, superficial femoral, and popliteal veins. Normal color 
flow and
compressibility are demonstrated in the posterior tibial and 
peroneal veins.
There is normal respiratory variation in the common femoral 
veins bilaterally.
There is minimal edema in the superficial soft tissues the level 
of the left
common femoral vein, likely reflecting recent intervention. No 
focal fluid
collection identified. No evidence of medial popliteal fossa 
(___) cyst.
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins. 
Minimal edema surrounding left common femoral vessels. No focal 
fluid
collection.

Cardiac Catheterization ___
Findings
ESTIMATED blood loss: <40 cc
Hemodynamics (see above): Stage 2 hypertension (SBP as high as
200 mmHg requiring iv NTG).
Coronary angiography:  right dominant
LMCA:  Patent
LAD:  Mild diffuse luminal irregularities. The mid vessel has a
50% eccentric plaque. The diagonal branch is large and
bifurcating. The proximal segment has 40% diffuse then 
bifurcates
to an upper pole (with patent stent) and lower pole (with 
diffuse
70-80% disease).
LCX:  Retroflexed with mid 90% focal lesion proximal to the OM1
origin. The proximal OM2 has 70% proximal to the bifurcation. 
RCA:  Tortuous vessel with 40% proximal stent edge.

Interventional details
Decision to treat the LCX focal lesion. The D1 lower pole will 
be
left for medical management. Change for ___ sheath. ___ BX 3.5
guide provided adequate support. AC with UFH and therapeutic 
ACT.
Crossed with Choice ___ XS with moderate difficulty. Directly
stented with 2.5x12 mm Premier drug-eluting stent deployed at 11
ATM. Final angiography showed excellent result with nice
step-up/step down, 0% residual stenosis within the stent, and no
apparent dissection or distal emboli. Wire pleating resolved and
the proximal segment appeared normal. The L CFA sheath was then
removed and ___ Angioseal deployed with adequate hemostasis.
The patient left the cath lab free from angina and in stable
condition.

Cardiac Catheterization ___
Findings
ESTIMATED blood loss: <30 cc
Hemodynamics (see above): Normal systemic arterial BP.
Coronary angiography:  right dominant
LMCA:  Patent.
LAD:  Diffuse luminal irregularities with 50% mid-distal
(unchanged). The diag is also unchanged and shows 70% in the
lower pole and patent stent in the upper pole.
LCX:  Patent stent. Several views to evaluated the LCX segment
proximal to the stent and this is patent. Distal branch disease
is noted, and unchanged.
RCA:  Not engaged.
SVG-: 
LIMA-LAD: 
Other: 
Interventional details
Decision to FFR the mid-distal LAD lesion. At nadir hyperemia,
the FFR was 0.82. Wire removed and angio showed unchanged vessel
appearance.
 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION:
Mr. ___ is a ___ man with known CAD s/p multiple DES, mild 
AR, HTN, HLD, CKD, and HIV p/w resting chest pain relieved by 
nitro and EKG changes suggestive of ACS/unstable angina.
  
ACTIVE ISSUES:
# Unstable Angina:The patient presented with unstable angina and 
TW flattening. Trops negative x3. He underwent cardiac 
catheterization  that showed the LAD had mid-vessel disease with 
50% eccentric plaque, with large diagonal branch that was 
bifurcating. The proximal segment had 40% diffuse then 
bifurcated to an upper pole (with patent stent) and lower pole 
(with diffuse70-80% disease). The LCx had mid 90% focal lesion 
proximal to the OM1 origin. The proximal OM2 had 70% proximal to 
the bifurcation. RCA was tortuous with 40% disease at the 
proximal stent edge. He had successful PTCA and stenting of the 
mid LCX and placement of DES. Three days after his 
catheterization, he developed severe chest pain with ST 
depressions laterally so he was taken to the catheterization lab 
for a re-look via the radial artery where his stents were patent 
and there were no thrombus or changes. It was decided to treat 
him medically. His blood pressure regimen was modified (see 
below), his statin was changed to atorvastatin 80mg and he will 
be on lifelong asa and clopidogrel x ___ year. He will have a 
P-MIBI in ___ weeks to assess further his mid LAD and diag 
lesions.

# Acute on chronic kidney disease: The patient's Cr rose to 1.9 
in the setting of two cardiac catheterization. He received IVF 
and the Cr downtrended by discharge (1.7).

# Leg pain: On ___, the patient reported acute ___ left leg 
pain that radiated from his hip to his ankle. Pulse exam 
unchanged. His left femoral artery had been used for access for 
his first cardiac catheterization but this was on ___. He was 
initially started on a heparin gtt but given arterial and venous 
ultrasounds were normal, this was discontinued. The pain 
improved with morphine x1 and he was walking comfortably later 
in the day. This etiology of this pain was unclear (although 
patient has known HIV vasculopathy) but did not recur.

#Hypertension: The patient was hypertensive to the 190s during 
this admission. His amlodipine was increased to 10mg and he was 
started on carvedilol 25mg BID (instead of metoprolol) and 
hydralazine 75mg q6h (for afterload reduction). Imdur was 
continued at his home dose. He will need close monitoring of his 
blood pressure and may benefit from a renal ultrasound. He may 
also benefit fro ___ (review of records showed he had 
hyperkalemia in ___ while on lisinopril) once his kidney 
function normalizes.

# Diarrhea: The patient had intermittent diarrhea ___ bowel 
movements in a row) which is reportedly chronic and for which he 
takes loperamide. If this continues, he may benefit from further 
GI evaluation of his diarrhea.

CHRONIC ISSUES:
# HIV: CD4 count of 538. Continued on home regimen. 

# Hepatitis C: He is genotype 1A HCV c/b cirrhosis, stable 
without evidence of clinically significant portal hypertension 
or synthetic dysfunction

# Urinary retention: Continued home oxybutynin.

TRANSITIONAL ISSUES
- He will need continued blood pressure management. Consider 
renal ultrasound to evaluate for RAS or restarting an ___ or 
___ once his kidney function has improved.
- pMIBI to assess mid LAD and diag lesions in ___ weeks
- He may benefit from further evaluation of his diarrhea if it 
persists
- He will need to take clopidogrel ___ year and asa 81mg lifelong
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 5 mg PO BID 
2. LaMIVudine 150 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Efavirenz 600 mg PO QPM 
5. Abacavir Sulfate 300 mg PO BID 
6. Amlodipine 5 mg PO DAILY 
7. Aspirin 162 mg PO DAILY 
8. Desonide 0.05% Cream 1 Appl TP PRN face 
9. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 
12. Pravastatin 40 mg PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*0
4. Desonide 0.05% Cream 1 Appl TP PRN face 
5. Efavirenz 600 mg PO QPM 
6. LaMIVudine 150 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Oxybutynin 5 mg PO BID 
9. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
10. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth each night Disp #*30 
Tablet Refills:*0
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 
12. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
13. Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
14. HydrALAzine 75 mg PO Q6H 
RX *hydralazine 50 mg 1.5 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina
Coronary artery disease
Hypertension
Acute on chronic kidney disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
with chest pain. A cardiac catheterization was performed which 
revealed a blockage in your heart vessel which was treated with 
a drug eluting stent. It is very important that you take your 
aspirin and plavix every day and if you feel you are running out 
on these medicines, you must call your cardiologist to get a 
refill. Not taking these medicines can result in re-blockage of 
the stent. Please followup with your cardiologist as an 
outpatient in several weeks and they request that you have 
stress test prior to this visit. 

Also, please check your blood pressures twice daily after you 
leave the hospital. You to can purchase an automatic blood 
pressure cuff at ___ Pharmacy and if your blood pressures are 
regularly greater than 160 systolic (the top number), or less 
than 110 systolic (the top number), please call your 
cardiologist.

Please call ___ to schedule stress test prior to seeing 
Dr. ___ on ___.

We wish you all the very best,
Your ___ Care Team
 
Followup Instructions:
___